US07399767B2
(6-Methoxy-pyridin-3-yl)-acetic acid
2-(6-Methoxy-pyridin-3-yl)-malonic acid diethyl ester (5.6 g, 21.0 mmoL) prepared in Example 3 was dissolved in 2N NaOH/THF:H2O (1:1) (20 mL). The resulting mixture was heated to reflux for 3 hours. The reaction mixture was then adjusted to pH=1 by concentrated HCl and stirred at room temperature for another 1 hour. The solution was then adjusted to pH=13 by 1N NaOH and extracted with ether. The aqueous phase was acidified to pH=5 by 1N HCl and extracted 3× by ethyl acetate. The combined organic phase was then washed with brine, dried over anhydrous Na2SO4, filtered and concentrated to give the title compound a white solid (2.45, 70%).

reactant | 2-(6-Methoxy-pyridin-3-yl)-malonic acid diethyl ester | 5.6 g | C(C)OC(C(C(=O)OCC)C=1C=NC(=CC1)OC)=O | C13H17NO5
reactant | H2O | 20 mL | O | H2O
reactant | HCl | Cl | ClH
reactant | NaOH | 1N | [OH-].[Na+]
solvent | NaOH THF | 2N | [OH-].[Na+].C1CCOC1
product | (6-Methoxy-pyridin-3-yl)-acetic acid | COC1=CC=C(C=N1)CC(=O)O | C8H9NO3
